US06906063B2
To a solution of 4-({[(5-chloro-2-thienyl)sulfonyl]amino}carbonylamino)benzoic acid (69 mg) in DMF (0.7 mL) was added aniline (21 uL, 0.23 mmol), DIEA (3 eq.) then PyBOP (85 mg, 0.16 mmol). The reaction mixture was stirred at room temp for 28 hr, acidified and HPLC purified to give {[(5-chloro(2-thienyl))sulfonyl]amino}-N-[4-(N-phenylcarbamoyl)phenyl]carboxamide (29 mg, 45%). ES-MS (M+H)+=436, 438 (Cl).

reactant | 4-({[(5-chloro-2-thienyl)sulfonyl]amino}carbonylamino)benzoic acid | 69 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C(=O)O)C=C1 | C12H9ClN2O5S2
reactant | aniline | 0.23 mmol, 21 uL | NC1=CC=CC=C1 | C6H7N
reactant | DIEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.16 mmol, 85 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | {[(5-chloro(2-thienyl))sulfonyl]amino}-N-[4-(N-phenylcarbamoyl)phenyl]carboxamide | 29 mg, 45% | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)C(NC1=CC=CC=C1)=O | C18H14ClN3O4S2
